US06407124B1
To a stirred solution of oxalyl chloride (45 mL, 90 mmole) at −78 deg C. under argon was added dropwise dimethyl sulfoxide (8.80 mL, 124 mmole). The reaction mixture was stirred at −78 deg C. for 10 min., and was treated with a solution of 2-hydroxymethyl-5-t-butyloxazole (11.7 g, 75.1 mmole) in anhydrous methylene chloride (30 mL) over 20 min. The mixture was stirred at this temperature for I hour, then triethylamine was added slowly (31.0 mL, 222 mmole), during which the reaction mixture became a yellowish slurry. After stirring at −78 deg C. for 20 min, the reaction mixture was warmed to room temperature, added with methylene chloride (100 mL) and stirred for 1 hour. The solid was filtered off and washed with EtOAc. The filtrate was washed with 5% aqueous citric acid (100 mL) and brine (50 mL), dried over MgSO4. Concentration and column chromatography (silica gel, EtOAc/hexane 1:4) afforded 2-formyl-5-t-butyloxazole as a light yellow oil (10.1 g)

reactant | oxalyl chloride | 90 mmole, 45 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 124 mmole, 8.80 mL | CS(=O)C | C2H6OS
reactant | 2-hydroxymethyl-5-t-butyloxazole | 75.1 mmole, 11.7 g | OCC=1OC(=CN1)C(C)(C)C | C8H13NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-formyl-5-t-butyloxazole | 10.1 g | C(=O)C=1OC(=CN1)C(C)(C)C | C8H11NO2
